### PR TITLE
[Merged by Bors] - feat: add enorm versions of many nnnorm lemmas

### PR DESCRIPTION
**Pull request by grunweg**
Extracted from #21433; this PR does not try to *change* existing lemmas, but merely adds new versions.
Generalise a few lemmas to ENorm, to show that this is already useful.

Part of the Carleson project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
@fpvandoorn Feel free to shepherd this along; this ought to be useful for generalising more material about Carleson.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 1]
```diff
@@ -677,6 +677,20 @@ lemma toReal_enorm' (x : E) : ‖x‖ₑ.toReal = ‖x‖ := by simp [enorm]
 lemma ofReal_norm' (x : E) : .ofReal ‖x‖ = ‖x‖ₑ := by
   simp [enorm, ENNReal.ofReal, Real.toNNReal, nnnorm]
 
+@[to_additive enorm_eq_iff_norm_eq]
+theorem enorm'_eq_iff_norm_eq {x : E} {y : F} : ‖x‖ = ‖y‖ ↔ ‖x‖ₑ = ‖y‖ₑ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Normed/Group/Basic.lean:681]: given the name of the lemma, I'd expect the sides of the iff to be swapped.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 2]
```diff
@@ -677,6 +677,20 @@ lemma toReal_enorm' (x : E) : ‖x‖ₑ.toReal = ‖x‖ := by simp [enorm]
...
+  simp only [← ofReal_norm']
+  refine ⟨fun h ↦ by congr, fun h ↦ ?_⟩
+  exact (Real.toNNReal_eq_toNNReal_iff (norm_nonneg' _) (norm_nonneg' _)).mp (ENNReal.coe_inj.mp h)
+
+@[to_additive enorm_leq_iff_norm_leq]
+theorem enorm'_leq_iff_norm_leq
```
Comment (sgouezel) [inline Mathlib/Analysis/Normed/Group/Basic.lean:687]: `leq` should be `le`.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 3]
```diff
@@ -465,14 +493,29 @@ theorem eLpNorm_mono_real {f : α → F} {g : α → ℝ} (h : ∀ x, ‖f x‖
...
 
+theorem eLpNormEssSup_le_of_ae_enorm_bound {f : α → ε} {C : ℝ≥0} (hfC : ∀ᵐ x ∂μ, ‖f x‖ₑ ≤ C) :
+    eLpNormEssSup f μ ≤ C :=
+  essSup_le_of_ae_le (C : ℝ≥0∞) hfC
+
 theorem eLpNormEssSup_le_of_ae_nnnorm_bound {f : α → F} {C : ℝ≥0} (hfC : ∀ᵐ x ∂μ, ‖f x‖₊ ≤ C) :
     eLpNormEssSup f μ ≤ C :=
   essSup_le_of_ae_le (C : ℝ≥0∞) <| hfC.mono fun _x hx => ENNReal.coe_le_coe.mpr hx
 
+-- XXX: better naming suggestions welcome
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:504]: not sure what the point of this lemma is, compared to the lemma above, which is nicer. You could use `eLpNormEssSup_le_of_ae_bound_enorm` or something...

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 4]
```diff
@@ -985,6 +1053,10 @@ theorem eLpNorm'_eq_zero_iff (hq0_lt : 0 < q) {f : α → E} (hf : AEStronglyMea
     eLpNorm' f q μ = 0 ↔ f =ᵐ[μ] 0 :=
   ⟨ae_eq_zero_of_eLpNorm'_eq_zero (le_of_lt hq0_lt) hf, eLpNorm'_eq_zero_of_ae_zero hq0_lt⟩
 
+theorem enorm_ae_le_eLpNormEssSup {_ : MeasurableSpace α} (f : α → ε) (μ : Measure α) :
+    ∀ᵐ x ∂μ, ‖f x‖ₑ ≤ eLpNormEssSup f μ :=
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:1057]: Has the lemma below changed since the start of this PR? Now it states the same, and should be renamed (+ deprecated) to this name.

**Review by fpvandoorn — APPROVED** [review]
LGTM

bors d+

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 5]
```diff
@@ -465,14 +493,29 @@ theorem eLpNorm_mono_real {f : α → F} {g : α → ℝ} (h : ∀ x, ‖f x‖
     eLpNorm f p μ ≤ eLpNorm g p μ :=
   eLpNorm_mono_ae_real (Eventually.of_forall fun x => h x)
 
+theorem eLpNormEssSup_le_of_ae_enorm_bound {f : α → ε} {C : ℝ≥0} (hfC : ∀ᵐ x ∂μ, ‖f x‖ₑ ≤ C) :
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:496]: In any case, making it into an ENNReal also works: changed.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:1050]: I think it did, perhaps Yael's PR. Good catch!, fixed.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean]: I don't remember if I actually used this lemma for anything. I have removed it for now; if a dependent PR needs it, I can always bring it back.

**Comment by grunweg** [comment]
Thanks for the review!
bors merge
